US06340759B1
6-(4-Bromophenyl)-5H-thieno[3,2-c]pyridin-4-one (4.87 g) was added to phosphorus oxychloride (30 ml), and the resulting mixture was heated at 100° C. for 3 hr. The reaction solution was evaporated, and to the resulting residue were added ethyl acetate and water. The organic layer was washed with water, an aqueous solution of saturated sodium bicarbonate and brine, and dried over magnesium sulfate. The solvent was evaporated, to give 4-chloro-6-(4-bromophenyl)thieno[3,2-c]pyridine.

reactant | 6-(4-Bromophenyl)-5H-thieno[3,2-c]pyridin-4-one | 4.87 g | BrC1=CC=C(C=C1)C1=CC2=C(C(N1)=O)C=CS2 | C13H8BrNOS
reactant | phosphorus oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-6-(4-bromophenyl)thieno[3,2-c]pyridine | ClC1=NC(=CC2=C1C=CS2)C2=CC=C(C=C2)Br | C13H7BrClNS
